US05981541
1-(2'Nitro-4',5'-dimethoxybenzylidene)-5,6-dimethoxy-2-tetralone (12f).
Prepared from 5,6-dimethoxy-2-tetralone and 2-nitro-4,5-dimethoxybenzaldehyde; mp 70-72° C.; IR (Nujol): 1715, 1550; 1H NMR: δ2.59 (2H, t), 3.06 (2H, t), 3.78 (3H, s), 3.86 (3H, s), 3.88 (3H, s), 3.92 (3H, s), 6.47 (1H, s), 6.77 (1H, d, J=8.2), 7.41 (1H, d, J=8.2), 7.67 (1H, s); 13C NMR: δ19.7, 32.0, 56.3, 56.7, 56.8, 56.85, 108.1, 121.9, 125.6, 126.1, 128.0, 129.2, 132.1, 132.9, 133.7, 140.3, 141.4, 149.3, 152.9, 153.5, 200.9; Anal. (C21H21NO7) C, H, N.

reactant | 5,6-dimethoxy-2-tetralone | COC1=C2CCC(CC2=CC=C1OC)=O | C12H14O3
reactant | 2-nitro-4,5-dimethoxybenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C(=C1)OC)OC | C9H9NO5
product | 1-(2'Nitro-4',5'-dimethoxybenzylidene)-5,6-dimethoxy-2-tetralone | [N+](=O)([O-])C1=C(C=C2C(CCC3=C(C(=CC=C23)OC)OC)=O)C=C(C(=C1)OC)OC | C21H21NO7
